US07393844B2
Methyl (1S,3R)-1-isopropyl-3-(tetrahydro-2H-pyran-4-ylamino)cyclopentanecarboxylate (1.0 g, 3.7 mmol) was combined with 37% aqueous formaldehyde solution (3.0 mL, 37 mmol) in 50 mL of DCM. After stirring for 35 min, 4 Å powdered molecular sieves, and sodium triacetoxyborohydride (3.9 g, 19 mmol) were added and the reaction mixture was stirred overnight under a nitrogen atmosphere. The reaction mixture was diluted with DCM, filtered through celite, and the filtrate was washed with saturated NaHCO3 solution, and brine. The organic layer was dried over anhydrous MgSO4, filtered, and concentrated to afford 1.0 g of methyl (1S,3R)-1-isopropyl-3-[methyl(tetrahydro-2H-pyran-4-yl)amino]cyclopentanecarboxylate.

reactant | Methyl (1S,3R)-1-isopropyl-3-(tetrahydro-2H-pyran-4-ylamino)cyclopentanecarboxylate | 3.7 mmol, 1.0 g | C(C)(C)[C@]1(C[C@@H](CC1)NC1CCOCC1)C(=O)OC | C15H27NO3
reactant | formaldehyde | 37 mmol, 3.0 mL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 19 mmol, 3.9 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | methyl (1S,3R)-1-isopropyl-3-[methyl(tetrahydro-2H-pyran-4-yl)amino]cyclopentanecarboxylate | 1.0 g | C(C)(C)[C@]1(C[C@@H](CC1)N(C1CCOCC1)C)C(=O)OC | C16H29NO3
